US04663343
7-Methyl-7-azabicyclo[4.1.0]heptane (7.0 g, 0.063 mol) from the previous step, 17.92 g (0.25 mol) of pyrrolidine, 0.16 g of ammonium chloride, and 10 ml of water were stirred and heated under reflux for 21 hours. The solution was then cooled and solid sodium hydroxide was added and the mixture was extracted three times with 50-ml portions of ether. The combined extracts were dried over anhydrous magnesium sulfate and evaporated under reduced pressure to yield a residual brown oil. This residue was distilled under high vacuum to yield 6.0 g of colorless trans-N-methyl-2-(1-pyrrolidinyl)cyclohexanamine, bp 95° C. (high vacuum).

reactant | 7-Methyl-7-azabicyclo[4.1.0]heptane | 0.063 mol, 7.0 g | CN1C2CCCCC12 | C7H13N
reactant | pyrrolidine | 0.25 mol, 17.92 g | N1CCCC1 | C4H9N
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | ammonium chloride | 0.16 g | [Cl-].[NH4+]
solvent | water | 10 ml | O | H2O
product | trans-N-methyl-2-(1-pyrrolidinyl)cyclohexanamine | 6.0 g | CN[C@H]1[C@@H](CCCC1)N1CCCC1 | C11H22N2
